US05547950
(S)-N-[[3-[3-fluoro-4-[4-(3-hydroxypropyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
A mixture of (S)-N-[[3-[3-fluoro-4-(1-piperazinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (0.200 g, 0.595 mmol), 3-chloro-1-propanol (299 μL, 3.57 mmol) and potassium carbonate (0.493 g, 3.57 mmol) in acetonitrile (12 mL) was heated to reflux for 7 h. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The crude material was dissolved in 10% methanol/chloroform and absorbed onto silica gel (2 g). Chromatography of this material over silica gel (10 g), eluting with 1%, 3%, and then 6% methanol/chloroform, afforded, after concentration of appropriate fractions, 0.096 g (41%) of the title compound as a white solid with mp 154°-155.5° C.

reactant | (S)-N-[[3-[3-fluoro-4-(1-piperazinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.595 mmol, 0.200 g | FC=1C=C(C=CC1N1CCNCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C16H21FN4O3
reactant | 3-chloro-1-propanol | 3.57 mmol, 299 μL | ClCCCO | C3H7ClO
reactant | potassium carbonate | 3.57 mmol, 0.493 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | (S)-N-[[3-[3-fluoro-4-[4-(3-hydroxypropyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.096 g, 41% | FC=1C=C(C=CC1N1CCN(CC1)CCCO)N1C(O[C@H](C1)CNC(C)=O)=O | C19H27FN4O4
